US06680326B2
a) Preparation of 5,7-dioxo-6,7-dihydro-5H-[2]pyrindine-6-carboxylic acid (3-methoxy-4-methyl-phenyl)-amide
5,7-Dioxo-6,7-dihydro-5H-[2]pyrindine-6-carboxylic acid ethyl ester (975 mg) (see Robin D. Allan and Joyce Fong, Aust. J. Chem., Vol. 36, Pp. 1221-1226,1983), 3-metoxy-2-methyl-phenylamine (750 mg) and acetic acid (0.4 ml) were suspended in toluene (30 ml). This mixture was refluxed for one hour under nitrogen. The mixture was cooled to room temperature and the ppt was collected with suction. The ppt was washed with toluene and dichloromethane and dried under reduced pressure to give an orange powder (1.1 g). ESI−MS: m/z 311 (MH+); 1H-NMR (DMSO-d6+triethylamine (1 eq.)): δ2.18 (3H, s), 3.77 (3H, s), 6.60 (1H, d, J=8 Hz), 7.05 (1H, t, J=8 Hz), 7.32 (1H, dd, J=4.5 Hz, J=1 Hz), 7.99 (1H, d, J=8 Hz), 8.50 (1H, d, J=1 Hz), 8.71 (1H, d, J=4.5 Hz), 10.6 (1H, s).

reactant | 5,7-Dioxo-6,7-dihydro-5H-[2]pyrindine-6-carboxylic acid ethyl ester | 975 mg | C(C)OC(=O)C1C(C=2C=CN=CC2C1=O)=O | C11H9NO4
reactant | 3-metoxy-2-methyl-phenylamine | 750 mg | COC=1C(=C(C=CC1)N)C | C8H11NO
reactant | acetic acid | 0.4 ml | C(C)(=O)O | C2H4O2
reactant | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 5,7-dioxo-6,7-dihydro-5H-[2]pyrindine-6-carboxylic acid (3-methoxy-4-methyl-phenyl)-amide | 1.1 g | COC=1C=C(C=CC1C)NC(=O)C1C(C=2C=CN=CC2C1=O)=O | C17H14N2O4
